US06365584B1
a) 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-(4-dimethylaminobenzylamino)-benzimidazole
5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole (1.0 g, 3.6 mmol) which is obtainable according to Example 2 (step c) and 4-dimethylamino-benzaldehyde (0.59 g, 3.0 mmol) in 25 mL of CH2Cl2 with 0.22 mL of AcOH are combined with Na[HB(OAc)3](2.2 g, 10.3 mmol) at ambient temperature with stirring. The mixture is stirred for 1 h at ambient temperature, covered with water, carefully acidified with conc hydrochloric acidaq and then made alkaline with 4N NaOH solution. The organic phase is separated off, dried and concentrated by evaporation. The product is chromatographed over silica gel (CH2Cl2/methanol=5/1) and crystallised from ethyl acetate.

reactant | 5-amino-2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazole | 3.6 mmol, 1.0 g | NC1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1 | C17H16N4
reactant | 4-dimethylamino-benzaldehyde | 3.0 mmol, 0.59 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | AcOH | 0.22 mL | CC(=O)O | C2H4O2
reactant | NaOH | 4N | [OH-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-5-(4-dimethylaminobenzylamino)-benzimidazole | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NCC2=CC=C(C=C2)N(C)C | C26H27N5
